US07816557B2
Step B. 5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine
To a solution of the 3-methyl-5-nitro-2-(4-trifluoromethyl-phenyl)-pyridine (3.5 g, 10.56 mmol) in ethanol (50 mL) is added palladium (10%) on carbon (0.700 g, 20% by wt.). The reaction is charged to 15 psi under a hydrogen atmosphere and allowed to stir for 4 hours. The reaction is diluted with ethyl acetate and Celite is added, followed by water. This mixture is then filtered through a pad of celite. The solution is concentrated, diluted with ethyl acetate, poured into a separatory funnel and the organic layer is washed with water and brine. The organic layer is dried over anhydrous sodium sulfate and concentrated. The product is used directly in the next step (2.74 g, 10.87 mmol).

reactant | 3-methyl-5-nitro-2-(4-trifluoromethyl-phenyl)-pyridine | 10.56 mmol, 3.5 g | CC=1C(=NC=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)C(F)(F)F | C13H9F3N2O2
reactant | water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine | CC=1C=C(C=NC1C1=CC=C(C=C1)C(F)(F)F)N | C13H11F3N2
